Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old gentleman with history of paraplegia from gun shot 
wound (___), neurogenic bladder, recurrent UTIs, chronic pain, 
hx of cocaine abuse, hx of psychosis, transferred from 
___ for evaluation of syncope.  

Yesterday AM, patient was found by side of road by police after 
he fell out of his wheelchair by police. Patient reports he 
syncopized, unclear how long he was out for. He was brought by 
EMS to ___. Per notes, he had negative CT head and 
CT c-spine. He was evaluated by psychiatric team who recommended 
discharge home. However, mother endorsed concern of multiple 
episodes of syncope, he was transferred to ___ for syncope 
evaluation.  
 
Patient provides a rambling and unclear history. He says he was 
outside yesterday to get coffee, going uphill in his wheelchair 
and then lost consciousness, and fell backwards out of his 
chair. He also provides an incoherent history of being dragged 
in the mud by people he was with, and he perseverates on the 
fact that this dirtied his clothes and his white ___ which he 
normally keeps very clean. His speech is quite pressured and 
tangential during this part of the history. He denies cocaine 
use and cannot explain why his tox screen is positive. He is not 
able to provide meaningful details of his history of syncope. He 
tells me he syncopized 5x in past week. His only associated 
symptom is feeling "warm'--denies chest, respiratory symptoms or 
seizure like activity. In the ED he endorsed syncopizing up to 
5x daily.  
 
There was concern for psychosis mentioned by PCP in recent note 
(___). Patient endorsed visual hallucinations and paranoia of 
government following him. There is a question of history of 
bipolar disorder, not currently treated. He does not follow with 
a psychiatrist.  
 
In the ED, initial vitals were: 99.6 90 130/85 14 99% RA  
 - Labs notable for wbc 12.6, chem7 wnl, UA with lg leuks, 
44wbc, few bac, 80 ketones, urine cocaine POS, urine opiates 
POS, lactate 1.7  
 - He was given:  
 ___ 22:39 IV CeftriaXONE 1 gm ___  
 
Decision was made to admit for syncope evaluation, and inpatient 
psych consult. On arrival to the floor, he is calm but appears 
altered. He has at times difficult to comprehend, rambling and 
pressured speech. He denies HI/SI or hallucinations currently.

ROS:  
(+) also notable for "cloudy" urine recently. Otherwise as per 
HPI.  
(-) Full 10 point ROS negative, except as noted in HPI.  
 
Past Medical History:
1. Paraplegia after gun shout wound from T10 level downward ___ 

2. Chronic back pain
3. Partial right lung resection for GSW
4. Recurrent MRSA skin abcesses in neck, back, perianal 
(recently
admitted in ___
5. Recurrent sacral decubitus ulcers status post debridement in
the OR on ___ and ___ & ___ (growing MRSA)
6. Pseudomonal prostatic abscess in ___ Prostatis in ___
7. Recurrent UTI: Past cultures have grown enterococcus,
morganella, pseudomonas
8. Cocaine use with history of perforated nasal septum
9. Urinary incontinence: chronically self-catheterizes
10. Grade 1 internal hemorrhoids seen on sigmoidoscopy ___
11. Chronic Constipation
12. Depression
13. ADHD
14. G6PD mutation

-Diagnoses: Depression, add, no hx.o psychosis prior to what is
described in HPI 
-Prior Hospitalizations: 1x this month as per HPI. 
-History of assaultive behaviors: Denies
-History of suicide attempts or self-injurious behavior: Denies 
-Prior med trials: Report being on wellbutrin/concerta
longstanding. Has tried ritalin  

 
Social History:
Born in ___ raised, in ___, completed high school in ___ 
and some
post grad computer training. Has one son, now ___ yo, who he 
still sees.
Currently living in assisted living facility.
***Recently fired his PCA on ___ who was taking care of 
assistance with his ADLs, food and meds. Now in the process of 
hiring his son as his new PCA. 

SUBSTANCE ABUSE HISTORY:
-ETOH: Denies
-Tobacco: denies
-MJ/LSD/Ecstasy/Mushrooms: report last MJ use ___ ___. 
-Cocaine/Crack/Amphetamines: Has significant history of cocaine
dependence, now in remission, c/b perforated septum, reports 
last
use ___ ___ but was found with cocaine in his urine on this 
admission in ___. 
-Opiates: Denies IVDU, on opioids for pain, question of misuse 
of
prescriptions. 
-Benzos: Denies

 
Family History:
Notable for BPAD and schizophrenia - sister, cousin, maternal GM
 
Physical Exam:
ADMISSION EXAM:
Vital Signs: 98.2 120 / 76 81 18 100 RA  
General: awake but extremely somnolent, falling asleep numerous 
times during interview; arousable to voice  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: diffusely diminished bilaterally, no crackles,  
Abdomen: soft, diffuse mild discomfort to deep palpation  
GU: No foley, no external lesions  
SKIN: 1x1cm superficial ulceration R gluteus, covered in clean 
dressing, appears non-erythematous and non-purulent  
Ext: Warm, non-edematous  
Neuro: full upper extremity muscle strength; ___ strength ___ 
bilaterally;  
Psych: denies hallucinations, HI, SI; pressured speech at times, 
tangentiality and circumstantiality  

DISCHARGE EXAM:
VS: Tc 98.6  BP 105/52  HR 89  RR 18  O2 99% RA  
GENERAL: Awake, alert, NAD, pleasant.   
HEENT: Sclera anicteric, MMM, EOMI, PERRL 
HEART: RRR, normal S1 + S2, no m/r/g
LUNGS: CTAB, no crackles  
ABDOMEN: Soft, non-tender, non-distended
GU: No foley, no external lesions  
RECTAL: Prostate tender to palpation
SKIN: 1x1cm superficial ulceration R gluteus, covered in clean 
dressing, appears non-erythematous and non-purulent  
EXT: Warm, non-edematous  
NEURO: AOx3, CNII-XII grossly intact

 
Pertinent Results:
ADMISSION LABS:
=================

CHEM:
___ 08:00PM   GLUCOSE-91 UREA N-8 CREAT-0.7 SODIUM-136 
POTASSIUM-3.5 CHLORIDE-97 TOTAL CO2-26 ANION GAP-17
___ 08:00PM   CALCIUM-9.6 PHOSPHATE-2.9 MAGNESIUM-2.2

CBC:
___ 08:00PM   WBC-12.6*# RBC-4.16* HGB-12.4* HCT-37.9* 
MCV-91 MCH-29.8 MCHC-32.7 RDW-12.1 RDWSD-40.6

URINE:
___ 09:29PM URINE  RBC-1 WBC-44* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 09:29PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-TR KETONE-80 BILIRUBIN-NEG UROBILNGN-2* PH-6.5 LEUK-LG
___ 09:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS* 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG

PERTINENT LABS:
=================
___ 07:35AM BLOOD TSH-0.16*
___ 07:45AM BLOOD Free T4-1.3

-------
MICRO:
-------

___ 9:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ACINETOBACTER BAUMANNII COMPLEX.    >100,000 CFU/mL. 
         "Note, for Amp/sulbactam, higher-than-standard dosing 
needs to be
         used, since therapeutic efficacy relies on intrinsic 
activity of
         the sulbactam component". 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
      ENTEROCOCCUS SP..    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ACINETOBACTER BAUMANNII COMPLEX
                             |          ENTEROCOCCUS SP.
                             |          |   
AMPICILLIN------------              <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------     8 S
CEFTAZIDIME-----------    16 I
CIPROFLOXACIN---------     2 I
GENTAMICIN------------   <=1 S
LEVOFLOXACIN----------     1 S
MEROPENEM-------------   0.5 S
NITROFURANTOIN--------             <=16 S
TETRACYCLINE----------             =>16 R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
VANCOMYCIN------------                1 S

---------
STUDIES:
---------

EEG (___):
- This is an abnormal continuous ICU EEG monitoring study 
because of a slow and poorly modulated background consistent 
with a mild to moderate encephalopathy. Findings were provided 
to the clinical team intermittently during this recording 
period. 

CT C-Spine w/o contrast ___  
- No acute abnormality suspected; findings consistent with 
multilevel cervical spondylosis.  

CT Head w/o contrast ___  
- No acute intracranial abnormality  

CXR PA/Lateral ___  
- No acute cardiopulmonary process  

DISCHARGE LABS:
=================
None, except UA, after ___ as patient was stable. 

CHEM:
___ 07:45AM BLOOD Glucose-99 UreaN-9 Creat-0.7 Na-141 K-4.2 
Cl-102 HCO3-28 AnGap-15

CBC:
___ 07:45AM BLOOD WBC-5.1 RBC-4.45* Hgb-13.3* Hct-42.2 
MCV-95 MCH-29.9 MCHC-31.5* RDW-12.5 RDWSD-43.4 Plt ___

UA: 
___ 06:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
 
Brief Hospital Course:
___ is a ___ year old male with a history of T10 
paraplegia, neurogenic bladder & recurrent UTIs, recent 
pre-admission question of paranoia/psychosis, who presented with 
syncope multiple times daily. Patient reported losing 
consciousness up to 5x/day daily for months. All work-up was 
unremarkable. EEG showed mild encephalopathy but no seizures. CT 
head and C spine showed mild cervical spondylosis. Orthostatics 
negative. Telemetry without events. Patient reported that he had 
no episodes of syncope in the hospital and none were witnessed. 
Psychiatry evaluated the patient and diagnosed schizophrenia 
with psychosis exacerbated by drug and medication use (cocaine 
and Concerta) and started the patient on Risperdal. Syncope was 
felt to be psychiatric in nature, however history also notable 
for significant caffeine intake in addition to ADHD medication 
and severe insomnia. 

ACTIVE PROBLEMS:
============================

#SYNCOPE: 
Unclear etiology. Never witnessed by the patient's family and 
has not had any events during this hospitalization. No history 
of seizures. Question of whether this was a case of psychiatric 
syncope which typically presents in younger patients with 
psychiatric disorders, without cardiovascular or neurologic 
disease. Another consideration was drug/med effect from opiates, 
other illegal drugs given that the patient's urine tox was 
positive for opiates (on MS ___ and cocaine. The patient 
emphasized how little he sleeps (stays up late playing video 
games, watching TV, often only gets ___ hours of sleep a night), 
and somnolence secondary to this was felt to be a contributing 
factor as well given that the patient had no episodes in the 
hospital and was well rested here. Also endorsed drinking 
multiple caffeinated drinks daily in addition to ADHD 
medication. Not felt to be cardiac or neurogenic as ECG, 
telemetry and EEG showed nothing except for mild encephalopathy. 
Ultimately felt when discharged that this would continue to 
resolve with improved psychiatric care as outlined below.

#PSYCHOSIS with suspected schizophrenia: 
Based upon rambling and disorganized speech in addition to 
delusions of the government following him confirmed by his 
family. He also previously endorsed paranoia and visual 
hallucinations. Per psych likely chronic and then triggered by 
cocaine (and possibly other drug) use and Concerta. UTI felt to 
have contributed to the patient's decompensation as well. 
Thyroid function appeared normal (TSH was low but barely below 
low normal limits and free T4 was well within normal limits) so 
hyperthyroidism was felt much less likely. Additionally he had 
no other physiologic symptoms of hyperthyroidism. The patient's 
morphine was tapered since he violated his narcotics contract 
and his home Concerta was held indefinitely. His UTI was treated 
as noted below and he was started on risperidone  QHS per psych. 

***** He recently fired his PCA on ___ (who was helping with 
ADLs, food, meds) because he thought she was not helping much 
and just taking his money. He and his son on discharge were 
setting up his son as his new PCA. He was also set up  with a 
partial day psych program in order to expedite his outpatient 
psych care, given difficulty getting him a psychiatry 
appointment because of the patient's insurance. 

#CYSTITIS/prostatitis as below
Patient reported cloudy urine. Self caths due to neurogenic 
bladder ___ spinal cord injury from gun shot wound. UA was 
grossly positive. Urine culture grew ACINETOBACTER BAUMANNII 
sensitive to Bactrim and ENTEROCOCCUS SP. sensitive to 
ampicillin. His antibiotic course was as follows:
- Ampicillin PO 500 mg Q6H (___)
- Bactrim DS BID (___)
- Empiric ceftriaxone (___)

#Acute bacterial PROSTATITIS: 
Tender on digital rectal exam, performed on day of discharge 
with concern given recurrent UTIs and reported bladder 
discomfort. Discharged on Bactrim x 6 weeks for prostatitis 
___ - ___ given senses on initial culture. Counseled 
on clean self-cath routine. 

# L hallux ___ trauma - patient stubbed toe with skin 
tear. Recommend ongoing dressing changes daily and monitoring 
for improvement. 

CHRONIC/STABLE PROBLEMS:
============================
 
#DEPRESSION:
- Continued Wellbutrin

#ADHD:  
- Discontinued Concerta and did not resume on discharge as noted 
above  

#CHRONIC PAIN:
- Continued gabapentin. 
- Morphine taper (15 mg twice daily from ___, then 15 mg 
daily from ___ the patient had diarrhea when this 
was initially held. Patient violated his narcotics contract 
prior to admission with illicit drug use. 

#CHRONIC ISSUES:  
- R gluteal wound: daily dressing changes  
- Neurogenic bladder: continued home tamsulosin, mirabegron, 
methenamine  

TRANSITIONAL ISSUES:
============================
- Anti-psychotic medication management (Risperdal started in the 
hospital) and psych follow up
- Partial day psych program intake scheduled for ___ at 9 am
- Gluteal wound care and left toe wound care with home ___
- Bactrim x 6 weeks for prostatitis (___)
- Taper down MS ___ (15 mg twice daily from ___, then 
15 mg daily from ___ because patient violated narcotics 
contract
- Son will be patient's new personal care assistant
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Collagenase Ointment 1 Appl TP DAILY R thigh 
3. Fluticasone Propionate NASAL ___ SPRY NU DAILY 
4. Gabapentin 800 mg PO TID 
5. methenamine hippurate 1 gram oral BID 
6. Concerta (methylphenidate) 27 mg oral DAILY 
7. mirabegron 25 mg oral DAILY 
8. Morphine SR (MS ___ 15 mg PO TID:PRN pain 
9. Tamsulosin 0.4 mg PO QHS 
10. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
11. Ascorbic Acid ___ mg PO BID 
12. Docusate Sodium 100 mg PO BID 
13. Ibuprofen 200 mg PO Q6H:PRN Pain - Mild 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1.  RisperiDONE 1 mg PO QHS 
RX *risperidone [Risperdal] 1 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*60 Tablet Refills:*1 
3.  Morphine SR (MS ___ 15 mg PO Q12H  
4.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
5.  Ascorbic Acid ___ mg PO BID  
6.  BuPROPion (Sustained Release) 150 mg PO BID  
7.  Collagenase Ointment 1 Appl TP DAILY R thigh  
8.  Docusate Sodium 100 mg PO BID  
9.  Fluticasone Propionate NASAL ___ SPRY NU DAILY  
10.  Gabapentin 800 mg PO TID  
11.  Ibuprofen 200 mg PO Q6H:PRN Pain - Mild  
12.  Methenamine Hippurate 1 gram ORAL BID  
13.  mirabegron 25 mg oral DAILY  
14.  Oxybutynin 20 mg PO DAILY  
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Psychosis NOS
Cocaine Abuse

Secondary Diagnosis:
ADHD
Depression
Chronic pain from right gluteal decubitus ulcer

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

Why you were here:
- You were hospitalized because you were having episodes of 
confusion, loss of consciousness, and were found to have a 
urinary tract infection. 

What we did and found: 
- Urine tests which showed two types of bacteria, and cocaine
- EEG (brain wave test) which did NOT show seizures
- CT scan of your head and neck which showed no problems

What should you do now?
- Taper down MS ___ as directed in your discharge 
instructions
- Get at least 7 hours of sleep each night and do not drink any 
energy drinks or coffee after noontime. 
- STOP taking Concerta 
- Continue Risperidone 1 mg nightly
- It is VERY important that you follow up with the partial psych 
program that was arranged for you.
- You can also call ___ psychiatry at ___ 
once you are home to set up an outpatient appointment.
- Please continue to take the antibiotics for your infection for 
6 weeks, until they are finished

It was a pleasure meeting and taking care of you while you were 
in the hospital.

- Your ___ Team

 
Followup Instructions:
___